### PR TITLE
bug fixes, improvements

### PR DESCRIPTION
**Pull request by robertylewis**
I had some time yesterday to play around with your code. I hope this is all orthogonal to what you've been working on! A bunch of small changes in one commit, so I'll add line comments about the various changes. You don't need to accept this whole PR, feel free to copy in any pieces you want.

For testing purposes: there are a bunch of files in mathlib that use `linear_combination`, including the `linear_combination` test file. `polyrith` seems to handle everything we'd expect it to do, which is great! Here's one example from `archive/100_theorems_list/37_solution_of_cubic.lean`. Replacing any `linear_combination` call with `polyrith` works.

```lean
import .polyrith
import tactic.linear_combination
import ring_theory.roots_of_unity
import ring_theory.polynomial.cyclotomic.basic


example {K : Type*} [field K] [invertible 2] [invertible 3]
  {ω p q r s t x: K}
  (hp_nonzero : p ≠ 0)
  (hr : r ^ 2 = q ^ 2 + p ^ 3)
  (hs3 : s ^ 3 = q + r)
  (ht : t * s = p)
  (x : K)
  (H : 1 + ω + ω ^ 2 = 0) :
  x ^ 3 + 3 * p * x - 2 * q =
    (x - (s - t)) * (x - (s * ω - t * ω ^ 2)) * (x - (s * ω ^ 2 - t * ω)) :=
begin
  have hs_nonzero : s ≠ 0,
  { contrapose! hp_nonzero with hs_nonzero,
    polyrith
     },
  have H' : 2 * q = s ^ 3 - t ^ 3,
  { rw ← mul_left_inj' (pow_ne_zero 3 hs_nonzero),
    polyrith    },
  polyrith
```

### CODE REVIEW

File: src/polyrith.lean [hunk 1]
```diff
@@ -4,6 +4,24 @@ import system.io
 import algebra
 import tactic.linear_combination
 
+/--
```
Comment (robertylewis) [inline src/polyrith.lean:9]: These are functions that aren't unique to `polyrith`, I've already made a PR to mathlib adding them.

File: src/polyrith.lean [hunk 2]
```diff
@@ -15,17 +33,14 @@ inductive poly
 |var: ℕ → poly
 |add: poly → poly → poly
 |mul: poly → poly → poly
+|pow : poly → ℕ → poly
```
Comment (robertylewis) [inline src/polyrith.lean:39]: I noticed that the certificates `polyrith` produced were expanding powers into multiplication, which doesn't format very well. Better to keep the exponents, and reflect this in the `poly` datatype!

File: src/polyrith.lean [hunk 3]
```diff
@@ -74,7 +89,7 @@ meta def has_val: ℕ → (expr × ℕ) → tactic unit
 
 
 meta def poly.to_pexpr :exmap → poly → tactic pexpr
-| _ (poly.const z) := return $  ``(%%z)
+| _ (poly.const z) := return z.to_pexpr
```
Comment (robertylewis) [inline src/polyrith.lean:95]: This was the root of an error when using `polyrith` on examples over any type other than `rat`. ``` ``(%%z) ``` produces a `pexpr` with type information, so when you elaborate it again, it will be of type `rat`. `rat.to_pexpr` (added above) strips the type information, so it's like a "bare numeral" that will elaborate into whatever type it should have.

File: src/polyrith.lean [hunk 4]
```diff
@@ -224,7 +244,9 @@ by ring_nf; simp only [complex.I_sq]; ring
 
 -- # main tactic
 
-meta def polyrith : tactic unit :=
+declare_trace polyrith
```
Comment (robertylewis) [inline src/polyrith.lean]: I found it useful to be able to trace the code sent to Sage. This lets you write `set_option trace.polyrith true` to see that. The behavior isn't right for production. (Right now, setting the trace option will *only* print the Sage command, and won't run the rest of the tactic.) But it helps for debugging.

File: src/polyrith.lean [hunk 5]
```diff
@@ -224,7 +244,9 @@ by ring_nf; simp only [complex.I_sq]; ring
...
+
+meta def _root_.tactic.interactive.polyrith : tactic unit :=
```
Comment (robertylewis) [inline src/polyrith.lean]: Any tactic used in `begin...end` blocks should be in the `tactic.interactive` namespace.

File: src/polyrith.lean [hunk 6]
```diff
@@ -234,16 +256,22 @@ do
   -- trace $ get_var_names m, 
   -- trace (polys.map poly.mk_string),
   -- trace p.mk_string,
-  sage_out ← sage_output [to_string R, (get_var_names m).to_string, (polys.map poly.mk_string).to_string, p.mk_string],
-  trace sage_out,
+  let args := [to_string R, (get_var_names m).to_string, (polys.map poly.mk_string).to_string, p.mk_string],
```
Comment (robertylewis) [inline src/polyrith.lean:263]: This just implements the tracing option.

File: src/polyrith.lean [hunk 7]
```diff
@@ -234,16 +256,22 @@ do
...
+  else do 
   coeffs_as_poly ← convert_sage_output sage_out,
   coeffs_as_pexpr ← coeffs_as_poly.mmap (poly.to_pexpr m),
   let eq_names := eq_names.map expr.local_pp_name,  
   coeffs_as_expr ← coeffs_as_pexpr.mmap $ λ e, to_expr ``(%%e : %%R),
   -- trace coeffs_as_expr,
-  expr_string ← (eq_names.zip coeffs_as_expr).mfoldl (λ s p, do ps ← tactic.pp p, return $ s ++ " " ++ to_string ps) "",
   linear_combo.linear_combination eq_names coeffs_as_pexpr,
-  trace!"Try this: linear_combination{expr_string}"
+  let components := (eq_names.zip coeffs_as_expr).filter $ λ pr, bnot $ pr.2.is_app_of `has_zero.zero,
```
Comment (robertylewis) [inline src/polyrith.lean:275]: I'm filtering out components where the coefficient is 0, since we don't need to print those in the `Try this:` line.

File: src/polyrith.lean [hunk 8]
```diff
@@ -234,16 +256,22 @@ do
...
+  expr_string ← components.mfoldl (λ s p, do ps ← tactic.pp p, return $ s ++ format.line ++ ps) "",
```
Comment (robertylewis) [inline src/polyrith.lean:276]: I'm also using a `format` object instead of a string, which gives some more control over line breaks in the output.

File: src/test2.py [hunk 9]
```diff
@@ -190,27 +190,28 @@ def mul_vars_string(var_list):
     if var_list == []:
         return const_string(1)
     elif len(var_list) == 1:
-        return var_string(var_list[0])
-    return "(poly.mul " + var_string(var_list[0]) + " " + mul_vars_string(var_list[1:]) + ")"
+        return var_list[0]
```
Comment (robertylewis) [inline src/test2.py:193]: Here and below, I had to make some changes to the printing output to handle powers. I think this part of the code could be simplified/reengineered.

File: src/test2.py [hunk 10]
```diff
@@ -190,27 +190,28 @@ def mul_vars_string(var_list):
...
+    var_things = [format_monom_component(e) for e in m_list]
     return mul_vars_string(var_things)
 
 def poly_terms_string(terms):
     if terms == []:
         return const_string(1)
     elif len(terms) == 1:
         return terms[0]
-    return "(poly.sum " + terms[0] + " " + poly_terms_string(terms[1:]) + ")"
+    return f'(poly.sum {poly_terms_string(terms[:-1])} {terms[-1]})'
```
Comment (robertylewis) [inline src/test2.py:214]: Python format strings are your friend :)

File: src/test2.py [hunk 11]
```diff
@@ -222,6 +223,8 @@ def polynomial_to_string(p):
         if str(monomials[i]) == "1":
             n = QQ(float(coeffs[i]))
             out.append(const_string(n))
+        elif str(coeffs[i]) == "1":
```
Comment (robertylewis) [inline src/test2.py:226]: Avoid `1*`

File: src/test2.py [hunk 12]
```diff
@@ -249,8 +252,9 @@ def create_query(type: str, var_list, eq_list, goal_type):
 {var_names(var_list)} = {type_str(type)}['{var_names(var_list)}'].gens()
 gens = {eq_list}
 p = {goal_type}
-basis, coeffs, r = ideal_membership(p, gens)
-print(list(map(polynomial_to_string, coeffs[0])))
+I = ideal(gens)
```
Comment (robertylewis) [inline src/test2.py:255]: And, a big change snuck in at the end: this uses Sage's built in Grobner basis algorithm instead of your implementation. I wish we had known about this before you implemented your own version, but, oh well! I'm not sure it solves anything that yours doesn't...

File: src/test2.py [hunk 13]
```diff
@@ -275,13 +279,16 @@ def evaluate_in_sage(query: str, format=False) -> str:
...
 def main():
-    command = create_query(sys.argv[1], sys.argv[2], sys.argv[3], sys.argv[4])
+    command = create_query(sys.argv[2], sys.argv[3], sys.argv[4], sys.argv[5])
     final_query = sage_functions + "\n" + command
-    output = evaluate_in_sage(final_query).replace("'", "")
-    output = output.replace(",", "")
-    output = output.replace("[", "").replace("]", "").strip()
-    output += " "
-    print(output)
+    if sys.argv[1] == 'tt': # trace enabled
```
Comment (robertylewis) [inline src/test2.py:287]: If the trace option is enabled, print the Sage command instead of evaluating it.
